US03962441
The ethyl 2-(2-o-chlorophenyl-6-benzoxazolyl)propionate from (a) was stirred with sodium hydroxide solution (50 ml.). After 11/2 hours the solution was evaporated to dryness. Acidification and re-crystallisation from ether gave 2-(2-o-chlorophenyl-6-benzoxazolyl)-propionic acid, m.p. 108°- 110°C.

reactant | ethyl 2-(2-o-chlorophenyl-6-benzoxazolyl)propionate | ClC1=C(C=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C18H16ClNO3
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | 2-(2-o-chlorophenyl-6-benzoxazolyl)-propionic acid | ClC1=C(C=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(C(=O)O)C | C16H12ClNO3
